US06436929B1
5-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)thiophene-3-carbonitrile
The title compound was prepared in a manner similar to Example 16 using 5-(4,4-dimethyl -2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)thiophene-3-carbonitrile and Lawesson's reagent. The product was obtained in the form of yellow crystals: m.p. 258-259° C. 1H NMR (DMSO-d6) δ12.3 (s,l H ),8.54 (d, 1H, J=0.9 Hz) ,7.96 (s, 1H), 7.69-7.62 (m, 2H), 7.11-7.08 (d, 1H, J=8.3 Hz), 1.69 (s, 6H); MS (ESI) m/z 299 [M−H]−; Anal. Calcd. For C15H12N2OS2 ½H2O: C, 58.0; H, 4.24; N, 9.05. Found C, 58.33; H, 3.85; N, 8.39.

reactant | 5-(4,4-dimethyl -2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)thiophene-3-carbonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC(=CS2)C#N)C | C15H12N2O2S
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 5-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)thiophene-3-carbonitrile | CC1(C2=C(NC(O1)=S)C=CC(=C2)C2=CC(=CS2)C#N)C | C15H12N2OS2
